US09302988B2
Step 1: (E)-1-Fluoro-4-(2-nitroprop-1-enyl)benzene
A solution of 4-fluorobenzaldehyde (5.0 g, 40.32 mmol), nitro ethane (3.2 mL, 44.35 mmol), trimethyl orthoformate (9.7 mL, 88.70 mmol), methylamine HCl (2.1 g, 31.44 mmol) and potassium acetate (2.76 g, 28.22 mmol) in methanol (50 mL) was refluxed at 80° C. for 18 h. Methanol was evaporated; the residue diluted with water (100 mL), extracted with EtOAc (3×50 mL). The combined organic layer was washed with water (50 mL), brine (50 mL), dried (Na2SO4) and concentrated. The residue triturated with methanol (10 mL), filtered off and washed with cold methanol (5 mL) to afford the desired product (1.82 g, 25%) as a yellow solid.

reactant | 4-fluorobenzaldehyde | 40.32 mmol, 5.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | nitro ethane | 44.35 mmol, 3.2 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | trimethyl orthoformate | 88.70 mmol, 9.7 mL | C(OC)(OC)OC | C4H10O3
reactant | methylamine HCl | 31.44 mmol, 2.1 g | Cl.CN
reactant | potassium acetate | 28.22 mmol, 2.76 g | C(C)(=O)[O-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | (E)-1-Fluoro-4-(2-nitroprop-1-enyl)benzene | 1.82 g, 25% | FC1=CC=C(C=C1)\C=C(/C)\[N+](=O)[O-] | C9H8FNO2
